US08048878B2
To a solution of (R)-6-oxopiperidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester (9.00 g) in THF (120 mL), 4-chlorophenylmagnesium bromide (1.0 M solution in diethyl ether, 42 mL) was added in a nitrogen atmosphere at −78° C. over 20 minutes. The reaction solution was heated from −78° C. to −40° C. over 1.5 hours while stirring, and then quenched with a saturated ammonium chloride solution at −40° C. Water was added to the reaction solution, followed by extraction with ethyl acetate. The resulting extract was dried over magnesium sulfate and then concentrated under reduced pressure. The residue was purified by silica gel column chromatography (elution solvent: heptane-ethyl acetate system) to obtain methyl (R)-2-tert-butoxycarbonylamino-6-(4-chlorophenyl)-6-oxohexanoate (9.53 g). A solution of 4 N hydrochloric acid in ethyl acetate (90 mL) was added to a solution of methyl (R)-2-tert-butoxycarbonylamino-6-(4-chlorophenyl)-6-oxohexanoate (9.53 g) in ethyl acetate (90 mL) at room temperature, and the reaction solution was stirred at room temperature for 12 hours. The reaction solution was concentrated under reduced pressure, and the residue was made basic with a saturated sodium bicarbonate solution. Then, chloroform was added to the residue, and the mixture was stirred at room temperature for two hours. The organic layer was separated, dried over magnesium sulfate, and then concentrated under reduced pressure. Sodium cyanoborohydride (3.29 g) and then acetic acid (4.27 mL) were added to a solution of the residue in methanol (150 mL) at 0° C., and the reaction solution was stirred at 0° C. for one hour and at room temperature for one hour. A saturated sodium bicarbonate solution was added to the reaction solution, followed by extraction with chloroform. The resulting extract was dried over magnesium sulfate and then concentrated under reduced pressure. The residue was purified by silica gel column chromatography (elution solvent: heptane-ethyl acetate system) and solidified with a heptane-diisopropyl ether system to obtain 2.47 g of the title compound. The property values of the compound are as follows.

reactant | (R)-6-oxopiperidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester | 9.00 g | COC(=O)[C@@H]1N(C(CCC1)=O)C(=O)OC(C)(C)C | C12H19NO5
reactant | 4-chlorophenylmagnesium bromide | 1.0 M, 42 mL | ClC1=CC=C(C=C1)[Mg]Br
solvent | THF | 120 mL | C1CCOC1 | C4H8O
product | methyl (R)-2-tert-butoxycarbonylamino-6-(4-chlorophenyl)-6-oxohexanoate | 9.53 g | C(C)(C)(C)OC(=O)N[C@@H](C(=O)OC)CCCC(=O)C1=CC=C(C=C1)Cl | C18H24ClNO5
